US06051712
30 mg, 0.065 mmol) of benzyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-phenoxy-piperidine-1-carboxylate were dissolved in 1.6 ml of tetrahydrofuran, cooled to 0° C. and treated in succession within 25 minutes with a solution of 95 ml (0.32 mmol, approximately 5 eq.) of a 70% sodium dihydrido-bis-(2-methoxyethoxy)-aluminate solution (SDMA) in toluene and 1.6 ml of tetrahydrofuran. This reaction solution was stirred at 0° C. for 2.5 hours. Subsequently, it was poured into a mixture of saturated potassium sodium tartrate solution and ice and extracted four times with 50 ml of methylene chloride each time. The organic phases were washed twice with water, evaporated under reduced pressure and dried in a high vacuum. The orange coloured resin was separated on silica gel using a 95:5 mixture of methylene chloride and methanol as the eluent. There were obtained 10 mg (47% of theory) of (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-phenoxy-piperidine as a colourless, amorphous solid; Rf : 0.38 (SiO2, methylene chloride:methanol=9:1).

reactant | benzyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-phenoxy-piperidine-1-carboxylate | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1OC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C30H29NO4
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | tetrahydrofuran | 1.6 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 1.6 ml | O1CCCC1 | C4H8O
product | (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-phenoxy-piperidine | 10 mg, 47% | C1=C(C=CC2=CC=CC=C12)COC1CNCCC1OC1=CC=CC=C1 | C22H23NO2
